US07205291B2
To a solution of 1-[5-({[tert-butyl(dimethyl)silyl]oxy}methyl)thien-2-yl]ethanone (19.75 g) in THF (200 ml) was added triethylamine (11.08 g). To the mixture was dropped at −78° C. 1N-lithium hexamethyldisilazane (87.63 ml), followed by chlorotrimethylsilane (9.52 g) and the mixture was stirred for 1 hour. Thereto was added hexane (200 ml) and the mixture was poured into water (300 ml) and extracted with hexane. The organic layer was washed with a saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give tert-butyl(dimethyl)[(5-{1-[(trimethylsilyl)oxy]vinyl}thien-2-yl)methoxy]silane. This product was used in the next step without purification.

reactant | 1-[5-({[tert-butyl(dimethyl)silyl]oxy}methyl)thien-2-yl]ethanone | 19.75 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(S1)C(C)=O | C13H22O2SSi
reactant | triethylamine | 11.08 g | C(C)N(CC)CC | C6H15N
reactant | lithium hexamethyldisilazane | 87.63 ml | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | chlorotrimethylsilane | 9.52 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | water | 300 ml | O | H2O
solvent | hexane | 200 ml | CCCCCC | C6H14
product | tert-butyl(dimethyl)[(5-{1-[(trimethylsilyl)oxy]vinyl}thien-2-yl)methoxy]silane | C(C)(C)(C)[Si](OCC=1SC(=CC1)C(=C)O[Si](C)(C)C)(C)C | C16H30O2SSi2
